US05508423
2-(2,4-Difluorophenyl)-1,3-bis(1H-1,2,4-triazole-l-yl)propane (I)
To a mixture of 1,2,3-Tribromo-2-(2,4-difluorophenyl)propane (5 g, 12.7 mmol) and water (25 ml), 1,2,4-Triazole (3.5 g, 50.8 mmol) and K2CO3 (3.5 g, 25.5 mmol) were added. The mixture was heated to reflux for 15-18 hours with vigorous stirring. The reaction mixture was cooled to room temperature and the product was extracted with EtOAc (3×100 ml). The combined EtOAc phase was washed with water and dried (Na2SO4). Evaporation of the solvent in vacuo and purification of the residue on a silica gel column with EtOAc and EtOH:EtOAc (1:19) as the elements, furnished the title compound (0.88 g, 23%).

reactant | 1,2,3-Tribromo-2-(2,4-difluorophenyl)propane | 12.7 mmol, 5 g | BrCC(CBr)(C1=C(C=C(C=C1)F)F)Br | C9H7Br3F2
reactant | 1,2,4-Triazole | 50.8 mmol, 3.5 g | N1N=CN=C1 | C2H3N3
reactant | K2CO3 | 25.5 mmol, 3.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 25 ml | O | H2O
product | 2-(2,4-Difluorophenyl)-1,3-bis(1H-1,2,4-triazole-l-yl)propane | 0.88 g, 23% | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)CN1N=CN=C1 | C13H12F2N6
